US06818663B2
To a stirred solution of 1-[3-methyl-2,3-dihydro-benzofuran-5-yl]ethanone (1.4 g, 7.94 mmol) (Maybridge Chemical) in dioxane (10 mL) was added dropwise a solution of bromine (1.52 g, 9.5 mmol) in dioxane (30 mL). After stirring 15 minutes the mixture was concentrated in vacuo and the residue chromatographed on silica gel (2:1 hexane-dichloromethane) to provide 375 mg (19%) of 2-bromo-1-(3-methyl-2,3-dihydro-benzo-furan-5-yl)ethanone.

reactant | 1-[3-methyl-2,3-dihydro-benzofuran-5-yl]ethanone | 7.94 mmol, 1.4 g | CC1COC2=C1C=C(C=C2)C(C)=O | C11H12O2
reactant | bromine | 9.5 mmol, 1.52 g | BrBr | Br2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 2-bromo-1-(3-methyl-2,3-dihydro-benzo-furan-5-yl)ethanone | 375 mg, 19% | BrCC(=O)C=1C=CC2=C(C(CO2)C)C1 | C11H11BrO2
